US05580904
N-[2-(Dimethylamino)ethyl]-5-[(2-hydroxy)ethyl]-4 -methylthiazolium chloride hydrochloride
To a mixture of 4-methyl-5-thiazole ethanol (16.0 g) and dimethylaminoethyl chloride hydrochloride (14.4 g) was added ethanol (10 ml. The mixture was heated under reflux for about 20 hours. Ethanol (10 ml) and acetone (100 ml) were added, and the mixture was stirred to give pale yellow powdery crystals, which were collected by filtration, washed with acetone containing a small amount of ethanol and dried under reduced pressure.

reactant | 4-methyl-5-thiazole ethanol | 16.0 g | CC=1N=CSC1CCO | C6H9NOS
reactant | dimethylaminoethyl chloride hydrochloride | 14.4 g | Cl.CN(C)CCCl
reactant | ethanol | C(C)O | C2H6O
reactant | Ethanol | 10 ml | C(C)O | C2H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-[2-(Dimethylamino)ethyl]-5-[(2-hydroxy)ethyl]-4 -methylthiazolium chloride hydrochloride | Cl.[Cl-].CN(CC[N+]1=CSC(=C1C)CCO)C | InChI=1S/C10H19N2OS.2ClH/c1-9-10(4-7-13)14-8-12(9)6-5-11(2)3;;/h8,13H,4-7H2,1-3H3;2*1H/q+1;;/p-1
